US08217055B2
Preparation of 2,2-dimethyl-propionic acid 7-(2-chloro-3,6-difluoro-phenyl)-5-(2,2,2-trifluoro-ethyl)-6-oxo-5,6-dihydro-pyrido[2,3-b]pyrazin-8-yl ester (Compound No. C8 of Table C)
A mixture of 2,2-dimethyl-propionic acid 7-(2-chloro-3,6-difluoro-phenyl)-6-oxo-5,6-dihydro-pyrido[2,3-b]pyrazin-8-yl ester (is this correct or did the reaction start with the unprotected species?) (Example 1.3) (0.10 g), potassium carbonate (0.053 g) and 2,2,2-trifluoroethyl triflate (0.130 g) were heated in a microwave at 150° C. for 30 minutes, and then at 170° C. for 30 minutes. The reaction mixture was allowed to cool to ambient temperature and was then partitioned between dichloromethane and aqueous hydrochloric acid (2M). The phases were separated. The organic layer was dried over magnesium sulfate and concentrated. The residue was dissolved in dichloromethane and treated with trimethylacetyl chloride (0.063 ml) and pyridine (0.061 ml) and stirred at ambient temperature. The reaction mixture was concentrated and the residue was purified by column chromatography on silica gel (eluent: acetone/iso-hexane 0:10 to 1:9) to give Compound No. C8 of Table C as a beige solid (0.049 g).

reactant | 2,2-dimethyl-propionic acid 7-(2-chloro-3,6-difluoro-phenyl)-6-oxo-5,6-dihydro-pyrido[2,3-b]pyrazin-8-yl ester | ClC1=C(C(=CC=C1F)F)C1=C(C=2C(=NC=CN2)NC1=O)OC(C(C)(C)C)=O | C18H14ClF2N3O3
reactant | potassium carbonate | 0.053 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl triflate | 0.130 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
product | 2,2-dimethyl-propionic acid 7-(2-chloro-3,6-difluoro-phenyl)-5-(2,2,2-trifluoro-ethyl)-6-oxo-5,6-dihydro-pyrido[2,3-b]pyrazin-8-yl ester | ClC1=C(C(=CC=C1F)F)C1=C(C=2C(=NC=CN2)N(C1=O)CC(F)(F)F)OC(C(C)(C)C)=O | C20H15ClF5N3O3
